US04623650
4-(2-Fluorophenyl)-toluene
6.0 g (57% yield) was prepared as an oil by the method of Example 19A from 10 g 2-bromofluorobenzene, 250 mg bis(diphenylphosphinylethane)nickel dichloride and 89 ml 0.73M 4-toluylmagnesium bromide. The product was used without further purification. NMR (CDCl3, 60 MHz): 7.5-6.9 (m, 8H), 2.3 (s, 3H).

reactant | 2-bromofluorobenzene | 10 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | 4-toluylmagnesium bromide | 0.73M, 89 ml | C1(=CC=C(C=C1)[Mg]Br)C
product | 4-(2-Fluorophenyl)-toluene | 57% yield | FC1=C(C=CC=C1)C1=CC=C(C=C1)C | C13H11F
